US06680313B2
The procedure of Example 1a) was repeated, except that 297 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 777 mg of 7-[3-N,N′-bis(4-nitrobenzyloxycarbonyl)guanidinopropyl]thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds. Thus, 436 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-[3-N,N′-bis(4-nitrobenzyloxycarbonyl)guanidinopropyl]thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate was prepared.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 297 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 7-[3-N,N′-bis(4-nitrobenzyloxycarbonyl)guanidinopropyl]thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 777 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NC(NCCCSC=2N=CN3C2SC(=C3)[Sn](CCCC)(CCCC)CCCC)=NC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C=C1
product | 4-nitrobenzyl (1S,5R,6S)-2-[7-[3-N,N′-bis(4-nitrobenzyloxycarbonyl)guanidinopropyl]thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 436 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NC(NCCCSC=2N=CN3C2SC(=C3)C=3[C@@H]([C@H]2N(C3C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)=NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C42H39N9O14S2
